*PUTTMER 1997 THICKNESS-MODE TRANSDUCER
.SUBCKT PZT E B F
O1 B 1 F 1 mylossyTlinePZT
V1 1 2
E1 2 0 4 0 1
V2 E 3
C0 3 0 {c0}
F1 0 3 V1 {hc0}
F2 0 4 V2 {hT}
R1 4 0 1E3
C1 4 0 1
.model mylossyTlinePZT LTRA(len={thickness} R={r} L={L} C={c})
.ENDS